US05037867
2-Benzyl-3-phenyl-5-diethoxyphosphinylisoxazolidine
A solution of 2.11 g (10 mmol) of N-benzylidenebenzylamine N-oxide and 1.64 g (10 mmol) of diethyl vinylphosphonate in 30 ml of toluene under a nitrogen blanket is heated at reflux temperature for 5 days. The solvent is removed under reduced pressure to give 4.45 g of crude product which is then purified by preparative HPLC (Waters Prep 500A, silica gel, 3:2 heptane:ethyl acetate eluent) to give 1.15 g (31% yield) of a caramel-colored liquid.

reactant | N-benzylidenebenzylamine N-oxide | 10 mmol, 2.11 g | C(C1=CC=CC=C1)=[N+](CC1=CC=CC=C1)[O-] | C14H13NO
reactant | diethyl vinylphosphonate | 10 mmol, 1.64 g | C(=C)P(OCC)(OCC)=O | C6H13O3P
solvent | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
product | 2-Benzyl-3-phenyl-5-diethoxyphosphinylisoxazolidine | 1.15 g, 31% yield | C(C1=CC=CC=C1)N1OC(CC1C1=CC=CC=C1)P(=O)(OCC)OCC | C20H26NO4P
